Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fever, pain at drain site
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ HCV ESLD s/p OLT ___ s/p splenectomy and distal 
pancreatectomy ___ secondary to ITP w/ drainage of LUQ fluid 
collection ___ and upsize of cath ___ now w/ fever 101 and 
increased pain at drain site 
 
Past Medical History:
# ESLD ___ HCV cirrhosis, s/p OLT on ___  
- c/b biliary strictures w/ Roux en-Y hepaticogjejunostomy 
___  
# h/o polysubstance abuse  
# h/o L ureteral obstruction s/p stent placement ___  
- new stent placed ___ for L hydronephrosis  
# anal fissures/fistulae s/p repair ___  
# hypertension  
# SVT  
# esophagitis  
# cognitive disorder  
# adjustment disorder  
Portal vein thrombus
Splenomegaly
ITP
gram negative bacteremia ___
L hydronephrosis ___ splenomegaly with stent placement
.  
PSH: (per initial H&P)  
# OLT ___ c/b biliary strictures w/ Roux en-Y 
hepaticojejunostomy
# incision hernia repair ___  
# s/p hemorrhoid repair  
# anal fistulectomy in ___ + ___, ___ placement 
___  
# appendectomy  
# cholecystectomy  
# splenectomy with distal pancreatectomy ___
 
Social History:
___
Family History:
Non-contributory.
 
Physical Exam:
Admission Physical Exam:

Gen - A&O x 3, NAD
CV - RRR
Pulm - CTAB
Abd - bowel sounds present, incisions well healed, soft, 
nontender, nondistended. Has left flank drain with malodorous, 
purulent drainage with some tenderness to palpation at the entry 
site.
 
Pertinent Results:
___ 12:08AM BLOOD WBC-12.5* RBC-3.53* Hgb-8.7* Hct-29.2* 
MCV-83 MCH-24.7* MCHC-29.8* RDW-17.8* Plt ___
___ 05:50AM BLOOD WBC-11.3* RBC-3.70* Hgb-9.3* Hct-29.8* 
MCV-81* MCH-25.1* MCHC-31.1 RDW-18.8* Plt ___
___ 05:50AM BLOOD ___ PTT-44.5* ___
___ 12:08AM BLOOD ___ PTT-46.1* ___
___ 05:50AM BLOOD Glucose-75 UreaN-26* Creat-0.6 Na-135 
K-4.0 Cl-104 HCO3-27 AnGap-8
___ 12:08AM BLOOD Glucose-92 UreaN-31* Creat-0.7 Na-133 
K-3.8 Cl-102 HCO3-27 AnGap-8
___ 05:50AM BLOOD Calcium-8.8 Phos-2.7 Mg-1.8
___ 12:08AM BLOOD Albumin-2.3* Calcium-8.8 Phos-2.7 Mg-1.8
___ 05:50AM BLOOD ___-7.8
 
Brief Hospital Course:
Temperature was 101 on admission. Urine and blood cultures were 
negative. The LUQ drain continued to have tan, thick drainage. 
On HD 2, he spiked a temperature to 102. WBC increased to 14 
from 11. Drainage was sent for culture. This grew proteus 
resistent to cipro otherwise pan-sensitive.  An abdominal CT was 
done on ___ as followup evaluation of the known portal vein 
thrombus and fever. This showed a large left pleural effusion, 
increased in size with increased lower lobe atelectasis. The LUQ 
pigtail catheter was unchanged in position with continued 
decrease in fluid about the catheter tip, nearly resolved. There 
was unchanged marked dilation of the portal, splenic, and 
superior mesenteric veins with extensive nonocclusive thrombus, 
also unchanged and unchanged left urothelial thickening. There 
was unchanged retroperitoneal lymphadenopathy. 

Given these findings, CT guided drainage of the left pleural 
effusion was performed on ___. He received 6 units of  FFP 
prior to the procedure for INR of 4.5
450cc of sero-sanguinous fluid was aspirated with an 8 ___ 
pigtail drain left to external bag drainage. Cultures were sent 
with results noting 2+ pmn and no growth. 

He was initially started on cipro and flagyl, but these were 
switched to unasyn and vanco on ___. Pan-cultures were sent for 
persistent temperatures up to 102. Urine and blood cultures 
remained negative. Lungs remained diminished at the bases. 
Thoracic surgery was consulted for concern for empyema. On ___ 
he underwent VATS with decortication for left empyema.  Surgeon 
was Dr. ___. Please see operative note for complete 
details. FFP was given for reversal of coumadin effect. Postop, 
he did well. Pain was controlled with PCA dilaudid. Two chest 
tubes were to suction. Daily CXR was done. Diet was advanced and 
tolerated. 

Left lung tissue cultures grew staph aureus coag + resistent to 
levo, cipro, oxacillin, clinda and erythromycin. It was 
sensitive to vanco. The BAL culture grew klebsiella pneumoniae 
resistance to cipro, cephalosporins, but sensitive to meropenum, 
zosyn, bactrim and gentamycin. There was sparse yeast. Unasyn 
was switched to meropenum. He continue to have low grade 
temperatures with wbc trending down to 11. Meropenum was given 
from ___ and vanco continued from ___. Both were 
stopped per ID recommendations. A picc line was placed for 
antibiotics. This was removed on the day of discharge ___. He 
remained afebrile (no higher than 100)off antibiotics x 2 days. 

Coumadin was resumed on ___. INR slowly trended up on 3mg qd. 
This was decreased to 2mg qd on ___ for inr of 2.8.

LFTs trended up with alk phos increasing to 711 from baseline of 
mid ___. On ___ a transjugular biopsy was performed given that 
he was on coumadin. Unfortunately, the specimen was an 
insufficient sample. Alk phos started to trend back down 
slightly. Further biopsying was deferred. Immunosuppression 
remained the same with prednisone 3mg qd and prograf 1mg q pm 
and 0.5mg qam for levels that ranged between ___. 

Chest tubes were changed to water seal then the apical chest 
tube was removed leaving the lower lobe tube.  Follow up cxr 
showed a small left apical pneumothorax. The lower lobe chest 
tube was left in and converted to a pneumostat valve (to empty, 
attach ___ lock syringe and aspirate back). Drainage averaged 
___ cc of serosanguinous fluid non-foul smelling. 

On ___, follow up chest CT showed persistent left pleural fluid 
with decrease in the volume of subphrenic fluid in the left 
subphrenic space. Well perfused liver with slight decrease in 
size of thrombus in the aneurysmally dilated left portal vein, 
the extent of thrombus in the extrahepatic portal and splenic 
veins was unchanged. A new fluid collection was noted 
inferomedial to the right kidney. No hydronephrosis was present. 


The plan was to leave the chest tube in place until after the 
LUQ pigtail catheter is removed.The LUQ pigtail drainage 
averaged ~ 20cc of tan thick fluid. 

He was discharged home on ___ ambulatory and tolerating a 
regular diet. 
He will follow up with Drs. ___ in the 
outpatient clinic. ___ services were arranged and follow up labs 
were ordered. 

 

 
Medications on Admission:
Atenolol 50', Humalog SS, Colace 100'', Lamivudine 100', 
Prednisone 3', Latanoprost 0.005 % Drops 1 Drops(s) in the right 
eye HS, Senna 8.6'', Diltiazem HCl [Cartia XT] 180', Risedronate 
35 weekly, Sertraline 50', Amylase-Lipase-Protease [Pancrease] 2 
caps TID w/ meals, Furosemide 20', Methadone 10mg/ml 
concentrates 60 concentrates', Omeprazole 20'', Tacrolimus 0.5 
qAM, 1 qPM, Trazodone 100 HS, Ursodiol 300'', Warfarin 4mg qMWF, 
3mg qTRSaSun, Gabapentin 100', Vicodin ___ tabs q4-6prn 
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
3. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
5. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
6. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
8. Risedronate 35 mg Tablet Sig: One (1) Tablet PO weekly ().  
9. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
10. Amylase-Lipase-Protease 48,000-16,000- 48,000 unit Capsule, 
Delayed Release(E.C.) Sig: Two (2) Cap PO TID W/MEALS (3 TIMES A 
DAY WITH MEALS).  
11. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Methadone 40 mg Tablet, Soluble Sig: 1.5 Tablet, Solubles PO 
DAILY (Daily).  
13. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
14. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO QAM (once 
a day (in the morning)).  
15. Tacrolimus 1 mg Capsule Sig: One (1) Capsule PO QPM (once a 
day (in the evening)).  
16. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
17. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
18. Insulin Lispro 100 unit/mL Solution Sig: As Directed  
Subcutaneous ASDIR (AS DIRECTED).  
19. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
20. Normal Saline Flush 0.9 % Syringe Sig: Ten (10) ml Injection 
three times a day: flush LUQ pigtail catheter 3x/day.
Disp:*50 * Refills:*2*
21. Outpatient Lab Work
Labs on ___ then q ___ and ___ for cbc, chem 10, 
ast, alt, alk phos, t.bili, inr, albumin and trough prograf
fax to ___ attn: ___, RN coordinator
22. Methadone
Has been on 60mg once day. Last dose administered ___
23. Warfarin 2 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*60 Tablet(s)* Refills:*1*
24. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed.
Disp:*40 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fever
Liver Transplant ___
s/p Splenectomy and distal pancreatectomy for ITP ___
L empyema, staph/klebsiella, sparse yeast
abdominal abscess LUQ
Splenic and portal vein non-occlusive thrombus

 
Discharge Condition:
Good

 
Discharge Instructions:
Please call the tansplant office for fever > 101, chills, 
nausea, vomiting, diarrhea, inability to take or keep down 
medications
Drain and record JP bulb output twice daily or more often as 
necessary. Write down output and bring record with you to 
clinic.
Coumadin as directed by the transplant clinic

 
Followup Instructions:
___